US05439928
b) 4-(1-hydroxy-5-phenylpentyl)-1H-imidazole
1-benzyl-5-(1-hydroxy-5-phenylpentyl)-1H-imidazole hydrochloride (8,5 g), prepared in the Step a, is hydrogenated in the mixture of 100 ml of 2N hydrochloric acid and 10 ml of ethanol at 60° C. Pd/C (10%) as catalyst. When the uptake of the hydrogen ceases, the reaction mixture is cooled, filtered and evaporated to dryness. Water is added and the mixture is made alkaline with sodium hydroxide. The product is then extracted to methylene chloride which is washed with water, dried with sodium sulphate and evaporated to dryness. The residue is the product as base, and it is used as such in Step c.

reactant | 1-benzyl-5-(1-hydroxy-5-phenylpentyl)-1H-imidazole hydrochloride | 8,5 g | Cl.C(C1=CC=CC=C1)N1C=NC=C1C(CCCCC1=CC=CC=C1)O
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(1-hydroxy-5-phenylpentyl)-1H-imidazole | OC(CCCCC1=CC=CC=C1)C=1N=CNC1 | C14H18N2O
